US05208250
5-[(4-Hydroxy-3-methoxyphenyl)methylene]-2,4-imidazolidinedione
A mixture of 4-hydroxy-3-methoxybenzaldehyde (4.6 g, 30 mmoles), hydantoin (3.0 g, 30 mmoles), β-alanine (1.4 g, 16 mmoles), and acetic acid (40 ml) is stirred under an inert atmosphere and heated to reflux. After 4 hours the mixture is stirred into water (350 ml) and the precipitate is filtered off, rinsed successively with water (3×), ethanol (2×), and ether (2×), and dried. Recrystallization from methanol afforded the pure product (3.0 g), mp 272°-273° C.

reactant | 4-hydroxy-3-methoxybenzaldehyde | 30 mmoles, 4.6 g | OC1=C(C=C(C=O)C=C1)OC | C8H8O3
reactant | hydantoin | 30 mmoles, 3.0 g | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | β-alanine | 16 mmoles, 1.4 g | NCCC(=O)O | C3H7NO2
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | water | 350 ml | O | H2O
product | 5-[(4-Hydroxy-3-methoxyphenyl)methylene]-2,4-imidazolidinedione | 3.0 g | OC1=C(C=C(C=C1)C=C1C(NC(N1)=O)=O)OC | C11H10N2O4
